US04473395
5-(p-Chlorophenyl)-2-methyl-3-n-propoxycarbonylpyridine (Compound 16)
5-(p-Chlorophenyl)-2-methyl-3-pyridine carboxylic acid (2 gm) and p-toluenesulphonic acid (1.69 g) in n-propanol (125 ml) was refluxed for 15 hours. The solution was concentrated and the residue partitioned between methylene dichloride and aqueous sodium carbonate. The organic phase was separated, washed with water, dried and concentrated to an oil which slowly crystallised to give the title compound (0.66 g), m.p. 54°-7°.

reactant | 5-(p-Chlorophenyl)-2-methyl-3-pyridine carboxylic acid | 2 gm | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C)C(=O)O | C13H10ClNO2
reactant | p-toluenesulphonic acid | 1.69 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-propanol | 125 ml | C(CC)O | C3H8O
product | 5-(p-Chlorophenyl)-2-methyl-3-n-propoxycarbonylpyridine | 0.66 g | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C)C(=O)OCCC | C16H16ClNO2
